US07271153B2
To a solution of 6-(N-acetylamino)-3-(4-ethylbenzyl)-1H-pyridin-2-one (0.19 g) in methanol (1 mL) was added 2 mol/L aqueous sodium hydroxide solution (0.35 mL), and the mixture was added for 22 hours at 80° C. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloro-methane/methanol=6/1) to give 6-amino-3-(4-ethylbenzyl)-1H-pyridin-2-one (0.013 g).

reactant | 6-(N-acetylamino)-3-(4-ethylbenzyl)-1H-pyridin-2-one | 0.19 g | C(C)(=O)NC1=CC=C(C(N1)=O)CC1=CC=C(C=C1)CC | C16H18N2O2
reactant | sodium hydroxide | 2 mol/L, 0.35 mL | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
product | 6-amino-3-(4-ethylbenzyl)-1H-pyridin-2-one | 0.013 g | NC1=CC=C(C(N1)=O)CC1=CC=C(C=C1)CC | C14H16N2O
